datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1CC[NH:10]C(C)(C)C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1CC[NH+:10]([H:20])C(C)(C)C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C/C(=N\[O-:10])C(=O)[O-].CSc1ccc([O:21][H:20])cc1>>C/C(=N\[O:10][H:20])C(=O)[O-].CSc1ccc([O-:21])cc1 10=20;20,21=21",
"C=CCC1(C2=CCCCC2)C(=O)NC(=S)[N:21]([H:20])C1=O.CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O-:10]>>C=CCC1(C2=CCCCC2)C(=O)NC(=S)[N-:21]C1=O.CC(=O)NCc1cc(C)cc(CNC(C)=O)c1[O:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC(C)C(C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC(C)C(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C([O-])[C@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-]>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C([O-])[C@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-] 10=20;20,21=21",
"S=C1OCC[N-:10]1.S=C1Oc2ccccc2[N:21]1[H:20]>>S=C1OCC[N:10]1[H:20].S=C1Oc2ccccc2[N-:21]1 10=20;20,21=21",
"C[C@H]1CC[N:10]2CCC[C@@H]12.c1cnc2cc([O:21][H:20])ccc2c1>>C[C@H]1CC[N+:10]2([H:20])CCC[C@@H]12.c1cnc2cc([O-:21])ccc2c1 10=20;20,21=21",
"C/C(=N/[O:21][H:20])c1ccccc1.CC[N:10](C)N>>C/C(=N/[O-:21])c1ccccc1.CC[N+:10](C)(N)[H:20] 10=20;20,21=21",
"COc1cccc([N+:21](=CN(C)C)[H:20])c1.O=C(O)[C@@H]1CC[C@H](C(=O)[O-:10])C1>>COc1cccc([N:21]=CN(C)C)c1.O=C(O)[C@@H]1CC[C@H](C(=O)[O:10][H:20])C1 10=20;20,21=21",
"O=C([O-])CCCCC[NH2+:21][H:20].c1ccc(CN2CCC([NH2:10])CC2)cc1>>O=C([O-])CCCCC[NH2:21].c1ccc(CN2CCC([NH2+:10][H:20])CC2)cc1 10=20;20,21=21",
"C=CC[NH+](CC=C)CCCNC(=O)/C=N/[O:21][H:20].COc1ccccc1[O-:10]>>C=CC[NH+](CC=C)CCCNC(=O)/C=N/[O-:21].COc1ccccc1[O:10][H:20] 10=20;20,21=21",
"COC(=O)c1ccccc1[N+:21](C)(C)[H:20].O=C1CSC(=O)[N-:10]1>>COC(=O)c1ccccc1[N:21](C)C.O=C1CSC(=O)[N:10]1[H:20] 10=20;20,21=21",
"C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O:21][H:20])[C@H]1CC(N)=O.C[C@H]1CC[N:10]2CCC[C@@H]12>>C=C(C)[C@H]1C[NH2+][C@H](C(=O)[O-:21])[C@H]1CC(N)=O.C[C@H]1CC[N+:10]2([H:20])CCC[C@@H]12 10=20;20,21=21",
"CC(C[NH:10]C)c1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C[NH+:10](C)[H:20])c1ccccc1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[NH+](C)CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[NH+](C)CCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[NH2+]CCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"CC[NH:10]CCC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](CCC(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ncnc2c1[nH]c[n+:21]2[H:20].Cc1c[n:10]c2c(O)cccc2c1C>>COc1ncnc2c1[nH]c[n:21]2.Cc1c[n+:10]([H:20])c2c(O)cccc2c1C 10=20;20,21=21",
"CCC(NO)=[N+:21](O)[H:20].Cc1cc[nH]c1C(=O)[O-:10]>>CCC(NO)=[N:21]O.Cc1cc[nH]c1C(=O)[O:10][H:20] 10=20;20,21=21",
"Fc1ccccc1[O:21][H:20].NCC[NH:10]CCCO>>Fc1ccccc1[O-:21].NCC[NH+:10](CCCO)[H:20] 10=20;20,21=21",
"Nc1cc2ccccc2n[n:10]1.O=C(Nc1ccccc1[NH2+:21][H:20])c1ccc([N+](=O)[O-])cc1>>Nc1cc2ccccc2n[n+:10]1[H:20].O=C(Nc1ccccc1[NH2:21])c1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"O/C(c1ccc[nH+]c1)=[O+:21]/[H:20].O=C([C@@H]1CCCC[C@@H]1O)[O-:10]>>O=C([C@@H]1CCCC[C@@H]1O)[O:10][H:20].OC(c1ccc[nH+]c1)=[O:21] 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])=C1>>CCCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)=C1 10=20;20,21=21",
"CC(C)(O)[O-:10].N#CC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1>>CC(C)(O)[O:10][H:20].N#CC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1 10=20;20,21=21",
"CC[Se](=O)[O:21][H:20].N#Cc1cccc([NH2:10])c1>>CC[Se](=O)[O-:21].N#Cc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"Clc1ccc2c(c1)nn[n:21]2[H:20].[O-]c1ccccc1[O-:10]>>Clc1ccc2c(c1)nn[n-:21]2.[O-]c1ccccc1[O:10][H:20] 10=20;20,21=21",
"O=C([O-])C[NH+](CC[N-:10]S(=O)(=O)c1ccccc1)CC(=O)[O-].O=P([O-])([O-])C(c1ccccc1[O-])[NH+:21](Cc1ccncc1)[H:20]>>O=C([O-])C[NH+](CC[N:10](S(=O)(=O)c1ccccc1)[H:20])CC(=O)[O-].O=P([O-])([O-])C(c1ccccc1[O-])[NH:21]Cc1ccncc1 10=20;20,21=21",
"O=C1NC(=Cc2ccccc2)C(=O)[N:21]1[H:20].O=S(=O)(c1nccs1)[NH-:10]>>O=C1NC(=Cc2ccccc2)C(=O)[N-:21]1.O=S(=O)(c1nccs1)[NH:10][H:20] 10=20;20,21=21",
"O=C1[N-]C(=S)[N-:10]C(=O)C1C1C=CCCC1.c1ccc(Oc2cccc[n+:21]2[H:20])cc1>>O=C1[N-]C(=S)[N:10]([H:20])C(=O)C1C1C=CCCC1.c1ccc(Oc2cccc[n:21]2)cc1 10=20;20,21=21",
"Cc1cc(-c2ccc([NH2+:21][H:20])c(C)c2)ccc1N.[O-]c1ncc2c(nc[n-:10]2)n1>>Cc1cc(-c2ccc([NH2:21])c(C)c2)ccc1N.[O-]c1ncc2c(nc[n:10]2[H:20])n1 10=20;20,21=21",
"C[n+]1c2ccccc2cc2c([NH-:10])cccc21.O=S1(=O)N=C[N:21]([H:20])c2nc[nH]c21>>C[n+]1c2ccccc2cc2c([NH:10][H:20])cccc21.O=S1(=O)N=C[N-:21]c2nc[nH]c21 10=20;20,21=21",
